US04294960
Ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 30 g.), N,N-dimethylformamide (100 ml.), potassium carbonate (39.5 g.) and cyclohexyl bromide (31.1 g.) were treated in a similar manner to that of Example F-(1) to give ethyl 2-cyclohexyloxyimino-3-oxobutyrate (syn isomer, 41.8 g.), oil.

reactant | Ethyl 2-hydroxyimino-3-oxobutyrate | 30 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 39.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexyl bromide | 31.1 g | C1(CCCCC1)Br | C6H11Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyclohexyloxyimino-3-oxobutyrate | 41.8 g | C1(CCCCC1)ON=C(C(=O)OCC)C(C)=O | C12H19NO4
